* Z:\mnt\design.r\spice\examples\3798.asc
C2 N017 0 4.7µ
C3 N022 N024 .001µ
M1 N018 N019 N020 N020 BSC42DN25NS3
R1 N020 0 .05
R2 N016 N021 40.2K
R3 N016 N023 40.2K
R4 N023 0 90.9K
L1 N001 N018 400µ
L2 0 N007 25µ
L3 0 N009 25µ
C4 N007 N011 4.7p
C5 N005 0 10µ
R7 N001 N013 1Meg
D1 N006 N005 1N4148
R9 N001 N004 200K
D2 N018 N015 GSD2004W-V
D3 N001 N015 DFLZ33
D4 N009 N010 MBRS360
C6 N010 0 100µ
R10 N014 0 4.99K
R11 N007 N014 90K
D6 N002 N001 1N4007
D7 0 N003 1N4007
D8 0 N002 1N4007
D9 N003 N001 1N4007
V1 N002 N003 167
C7 N001 0 .1µ
XU1 N016 N016 N021 N016 N023 N025 N022 N024 N014 N011 N005 N008 N017 N019 N020 N013 0 LT3798
R5 N008 0 95.3K
R6 N005 N008 1Meg
C1 N025 0 .01µ
R13 N021 0 15.8K
R8 N007 N006 20
D5 N004 N005 1N4007
I1 0 N005 pwl(0 0 50u 6 100u 0)
C8 N014 0 22p
S§Load 0 N010 N012 0 LD
V2 N012 0 PULSE(0 1 3m 10u 10u .75m 1.5m)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1.
.tran 10m startup
.model 1N4007 D(Is=90p
+ Rs=40m Cjo=30p N=1.4 TT=5u)
.model LD SW(Ron=50 Roff=100 Vt=.5 Vh=-.4)
.lib LT3798.sub
.backanno
.end
